US08247401B2
Step B: Methyl 5-bromo-2′-fluoro-4′-methylbiphenyl-3-carboxylate
Methyl 3-bromo-5-iodo-benzoate (13 g) and 2-fluoro-4-methylphenylboronic acid (6 g) were dissolved in DMF (120 mL) at room temperature. The solution was then cooled down to 0° C. with ice bath. To this solution was added aq. sodium carbonate (6 g in 50 mL of water), Pd(dppf)Cl2 (3 g) and DMF (10 mL). After the addition, the reaction was warmed up slowly to room temperature. The reaction mixture was then stirred at room temperature for 4 hrs. Solvent was evaporated under reduced pressure. The residue was re-dissolved in EtOAc (200 mL) washed with HCl (1M) 3×200 mL), sat. NaHCO3 (3×100 mL), brine (3×100 mL) and water (3×100 mL). The organic layer was separated and concentrated. The crude product was then purified with column chromatography (silica gel, eluted with EtOAc/Hexane, 0 to 1%) to give pure compound. Note a second column can be done to further remove unwanted bis cross coupled by-product.

reactant | Methyl 3-bromo-5-iodo-benzoate | 13 g | BrC=1C=C(C(=O)OC)C=C(C1)I | C8H6BrIO2
reactant | 2-fluoro-4-methylphenylboronic acid | 6 g | FC1=C(C=CC(=C1)C)B(O)O | C7H8BFO2
reactant | sodium carbonate | 50 mL, 6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 5-bromo-2′-fluoro-4′-methylbiphenyl-3-carboxylate | BrC=1C=C(C=C(C1)C1=C(C=C(C=C1)C)F)C(=O)OC | C15H12BrFO2
